US08686044B2
Preparation of 4-(perfluoroethyl)-2-(trifluoromethyl)aniline
To 40 ml of an aqueous solution of 7.04 g (40.4 mmol) of 85% sodium hydrosulfite and 3.40 g (40.4 mmol) of sodium hydrogen carbonate were added 13.6 g (33.7 mmol) of 2-(trifluoromethyl)aniline and 40 ml of DMF. To this reaction liquid was added 50 ml of a solution of 11.2 g (45.5 mmol) of 1,1,2,2,2-pentafluoroethyliodide in DMF (DMF was cooled to −30° C., and 1,1,2,2,2-pentafluoroethyl iodide was dissolved therein), and placed in an autoclave, followed by stirring at 110° C. for 9 hours. After being left to stand at room temperature overnight, water and ethyl acetate were added to the reaction liquid, followed by extraction with ethyl acetate. The organic layer was washed with water, a saturated aqueous sodium hydrogen carbonate solution, and saturated brine. The organic layer was dried over anhydrous sodium sulfate, then the solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (eluent solvent; hexane:ethyl acetate=10:1→5:1) to prepare 1.95 g (yield 21%) of a target compound.

reactant | sodium hydrosulfite | 40.4 mmol, 7.04 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | sodium hydrogen carbonate | 40.4 mmol, 3.40 g | C(O)([O-])=O.[Na+]
reactant | 2-(trifluoromethyl)aniline | 33.7 mmol, 13.6 g | FC(C1=C(N)C=CC=C1)(F)F | C7H6F3N
reactant | 1,1,2,2,2-pentafluoroethyliodide | 45.5 mmol, 11.2 g | FC(C(F)(F)F)(F)I | C2F5I
solvent | DMF | CN(C)C=O | C3H7NO
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 4-(perfluoroethyl)-2-(trifluoromethyl)aniline | 1.95 g, yield 21% | FC(C(F)(F)F)(C1=CC(=C(N)C=C1)C(F)(F)F)F | C9H5F8N
